US07504508B2
4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}benzamide (G-4)
N-(4-chlorophenyl)-N-[(2S,4R)-1-(4-cyanobenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide (143 mg, 0.33 mmol) and potassium hydroxide (55 mg, 1.00 mmol)) were dissolved in water (150 mL), ethanol (3 mL) and heated to 70° C. for 4 h. The slurry was portioned between 1N HCl (until acidic) and methylene chloride. The organic layer was collected, concentrated and subjected to flash chromatography (EtOAc to 20% MeOH, EtOAc) to afford the title compound as a white solid.

reactant | N-(4-chlorophenyl)-N-[(2S,4R)-1-(4-cyanobenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide | 0.33 mmol, 143 mg | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)C#N)=O)C | C26H22ClN3O2
reactant | potassium hydroxide | 1.00 mmol, 55 mg | [OH-].[K+]
reactant | ethanol | 3 mL | C(C)O | C2H6O
reactant | HCl | 1N | Cl | ClH
solvent | water | 150 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}benzamide | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C(=O)N)C=C1)C)C1=CC=C(C=C1)Cl | C26H24ClN3O3
